US06706105B2
A solution of 2.12 g of 4-acetaminophenacyl chloride, 0.83 g of pyridine, and 6.4 g of dimethyl sulfoxide was agitated for one night. 0.8 g of pyridine and 1 g of dimethyl sulfoxide were further added, and thereafter, the resulting solution was further agitated for 5 hours. 50 mL of ether was added, and acetamidophenacylpyridinium chloride was separated by filtration. The separated acetamidophenacylpyridinium chloride was dissolved into water, and the resulting solution was filtered, and thereafter, 1.7 g of concentrated nitric acid was added. The resulting solution was boiled for one hour, and after cooling, acetone was added. Then, 4-aminophenacylpyridinium chloride hydrochloride was produced by filtration. 2 g of the resulting 4-aminophenacylpyridinium chloride hydrochloride was dissolved into 15 g of water, and 4.5 g of basic ion-exchange resin (Amberlite IRA400-OH) was added. After agitation, the ion-exchange resin was removed by filtration so as to produce an aqueous solution of 4-aminophenacylpyridinium chloride. An aqueous solution of 25 g of water and 1.3 g of 4-aminophenacylpyridinium chloride was refluxed with 1 g of silver nitrate for 90 minutes. Generated precipitates were removed by filtration. Then, 5 g of carbon black having a specific surface area of 200 m2/g and DBPA of 122 mL/100 g was added, and the resulting mixture was heated to about 80° C. 0.52 g of concentrated hydrochloric acid was added, and thereafter, a solution of small amounts of water and sodium nitrite was added. Furthermore, the disperse liquid was agitated for 1.5 hours. As a consequence, a diazonium salt including NN+C6H4COCH2(N+C5H5) group having the following structure was produced and was reacted with carbon black. As a result, a product in which C6H4COCH2(N+C5H5) group was bound to the surface of the carbon black was produced. The resulting carbon black powder was dispersed in water again, so as to produce a self-dispersing carbon black disperse material having a pigment content of 15%.

reactant | 4-acetaminophenacyl chloride | 2.12 g | N(C(=O)C)C1=CC=C(C(CCl)=O)C=C1 | C10H10ClNO2
reactant | pyridine | 0.83 g | N1=CC=CC=C1 | C5H5N
reactant | dimethyl sulfoxide | 6.4 g | CS(=O)C | C2H6OS
reactant | pyridine | 0.8 g | N1=CC=CC=C1 | C5H5N
reactant | dimethyl sulfoxide | 1 g | CS(=O)C | C2H6OS
solvent | ether | 50 mL | CCOCC | C4H10O
product | 4-aminophenacylpyridinium chloride hydrochloride | Cl.[Cl-].NC1=CC=C(C(C[N+]2=CC=CC=C2)=O)C=C1 | InChI=1S/C13H12N2O.2ClH/c14-12-6-4-11(5-7-12)13(16)10-15-8-2-1-3-9-15;;/h1-9H,10H2,(H-,14,16);2*1H
